US06706709B2
6-Phenyl-3-[5-(2-pyrrolidin-1-yl-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one
A mixture of 6-phenyl-2-oxindole (41 mg, 0.2 mmol), 5-(2-pyrrolidin-1-yl-ethoxy)-1H-indole-2-carbaldehyde (50 mg, 0.2 mmol) and piperidine (0.1 mL) in ethanol (1 mL) was heated at 100° C. for 2 hours. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 65 mg (72%) of the title compound as a red solid.

reactant | 6-phenyl-2-oxindole | 0.2 mmol, 41 mg | C1(=CC=CC=C1)C1=CC=C2CC(NC2=C1)=O | C14H11NO
reactant | 5-(2-pyrrolidin-1-yl-ethoxy)-1H-indole-2-carbaldehyde | 0.2 mmol, 50 mg | N1(CCCC1)CCOC=1C=C2C=C(NC2=CC1)C=O | C15H18N2O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 6-Phenyl-3-[5-(2-pyrrolidin-1-yl-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one | 65 mg, 72% | C1(=CC=CC=C1)C1=CC=C2C(C(NC2=C1)=O)=CC=1NC2=CC=C(C=C2C1)OCCN1CCCC1 | C29H27N3O2
